US04337354
Step B. Methyl {[6,7-dichloro-2-isopropyl-1-oxo-2-(3-oxobutyl)-2,3-dihydro-1H-inden-5-yl]oxy}acetate
Methyl [(6,7-dichloro-2-isopropyl-1-oxo-2,3-dihydro-1H-inden-5-yl)oxy]acetate (16.5 gm., 0.05 mole) is suspended in dry tetrahydrofuran (100 ml.) containing triton-B (1 ml.). The suspension is stirred at ambient temperature and methyl vinyl ketone (5.02 gm., 0.072 mole) is added. The solution which becomes warm initially, is stirred at ambient temperature for 4 hours. Then, the stirring solution is treated with methyl vinyl ketone (0.3 ml.) and triton-B (0.6 ml.) every 4 hours for the next twenty hours.

reactant | Methyl [(6,7-dichloro-2-isopropyl-1-oxo-2,3-dihydro-1H-inden-5-yl)oxy]acetate | 0.05 mole, 16.5 gm | ClC1=C(C=C2CC(C(C2=C1Cl)=O)C(C)C)OCC(=O)OC | C15H16Cl2O4
reactant | methyl vinyl ketone | 0.072 mole, 5.02 gm | C(=C)C(=O)C | C4H6O
reactant | methyl vinyl ketone | 0.3 ml | C(=C)C(=O)C | C4H6O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Methyl {[6,7-dichloro-2-isopropyl-1-oxo-2-(3-oxobutyl)-2,3-dihydro-1H-inden-5-yl]oxy}acetate | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(CCC(C)=O)C(C)C)OCC(=O)OC | C19H22Cl2O5
